# CMOS inverter chain with BSIM3 model 

.options maxdelta = 1. maxiter=30
*.analysis dc device=vdc:vin param=vdc start=0 stop=3V verbose=0 num=100
.analysis tran tstop=20n tstep=.1n im=trap verbose=0 saveall=1 shell=0

vdc:vdd 1 gnd vdc=3V 
*vdc:vin in gnd vdc=1 
*vsin:vin in gnd vdc=1 mag=1. freq=100MEGHz phase=120
vpulse:vin in gnd v1=0 v2=3 pw=2n per=10n tr=3n tf=3n 

x1 in o1 1 gnd inverter
x2 o1 o2 1 gnd inverter
x3 o2 out 1 gnd inverter
cap:cload out gnd c=20fF

.subckt inverter in out 1 gnd
# m1 connected in reverse mode (to test model)
mosbsim3:m1 1 in out 1 type = p
mosbsim3:m2 out in gnd gnd type = n
#cap:cload out gnd c=.01pF
.ends

#.plot dc o1 o2 out
.plot tran in o1 o2 out

.end


